US09303012B2
d) 4,4-Dimethyl-pyrrolidine-2-carboxylic acid amide hydrochloride
A solution of 2-carbamoyl-4,4-dimethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (1.2 g, 4.95 mmol) in dioxane (5 mL) was cooled to 10° C. Hydrogen chloride dissolved in dioxane (10 mL, 6.4 N) was added and the mixture was stirred for 1.5 hours. Diethylether (50 mL) was added to completely precipitate the product, which was filtered and dried to give the title compound (0.84 g, 95%) as colorless solid; MS (ESI) 143.0 [MH+].

reactant | 2-carbamoyl-4,4-dimethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.95 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1C(CC(C1)(C)C)C(N)=O | C12H22N2O3
reactant | Hydrogen chloride | Cl | ClH
reactant | Diethylether | 50 mL | C(C)OCC | C4H10O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 6.4 N, 10 mL | O1CCOCC1 | C4H8O2
product | 4,4-Dimethyl-pyrrolidine-2-carboxylic acid amide hydrochloride | 0.84 g, 95% | Cl.CC1(CC(NC1)C(=O)N)C | InChI=1S/C7H14N2O.ClH/c1-7(2)3-5(6(8)10)9-4-7;/h5,9H,3-4H2,1-2H3,(H2,8,10);1H
